US07153875B2
A mixture of 3-(t-butyl)-4-methoxyphenyl boronic acid (0.424 g, 2.04 mmol), 6-bromo-2-naphthaldehyde (0.400 g, 1.70 mmol) and sodium carbonate (0.541 g, 5.10 mmol) in 10 mL of toluene:ethanol (4:1) and water (1 mL) was degassed with argon for 30 minutes. Tetrakis(triphenylphosphine) palladium(0) (0.059 g, 0.05 mmol) was added and the mixture heated at reflux for 17 hours. The solution was cooled to room temperature, diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified on silica gel (eluent: hexane:EtOAc, 9:1) to give 0.50 g of 6-[3-(t-butyl)-4-methoxyphenyl]-2-naphthaldehyde (76%) as a solid. 1H NMR (300 MHz; DMSO-d6, 300 MHz): 1.46 (s, 9H), 3.92 (s, 3H), 7.02 (d, J=8.7 Hz, 1H), 7.57 (dd, J1=8.7 Hz, J2=2.4 Hz, 1H), 7.66 (d, J=2.4 Hz, 1H), 7.84 (dd, J1=8.4 Hz, J2=1.8 Hz, 1H), 7.97 (brs, 2H), 8.04 (s, 1H), 8.05 (d, J=8.7 Hz, 1H), 8.35 (s, 1H), 10.16 (s, 1H).

reactant | 3-(t-butyl)-4-methoxyphenyl boronic acid | 2.04 mmol, 0.424 g | C(C)(C)(C)C=1C=C(C=CC1OC)B(O)O | C11H17BO3
reactant | 6-bromo-2-naphthaldehyde | 1.70 mmol, 0.400 g | BrC=1C=C2C=CC(=CC2=CC1)C=O | C11H7BrO
reactant | sodium carbonate | 5.10 mmol, 0.541 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 10 mL | C1(=CC=CC=C1)C.C(C)O
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.05 mmol, 0.059 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-[3-(t-butyl)-4-methoxyphenyl]-2-naphthaldehyde | 0.50 g, 76% | C(C)(C)(C)C=1C=C(C=CC1OC)C=1C=C2C=CC(=CC2=CC1)C=O | C22H22O2
